US06503949B1
1-Ethylsulfanyl-3-isocyanatobenzene
To a slurry of the above 3-ethylsulfanylphenylamine hydrochloride (31.6 mmol, 6 g) in toluene (100 mL) was added diphosgene (trichloromethyl chloroformate, 158 mmol, 31.3 g) and the mixture was refluxed for 2 hours affording a clear solution. The solvent was removed in vacuo and the residue was used without further purification.

reactant | 3-ethylsulfanylphenylamine hydrochloride | 31.6 mmol, 6 g | Cl.C(C)SC=1C=C(C=CC1)N
reactant | diphosgene | 158 mmol, 31.3 g | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 1-Ethylsulfanyl-3-isocyanatobenzene | C(C)SC1=CC(=CC=C1)N=C=O | C9H9NOS
